data/mechanisms/records/IMS8-EQ8.100.json
{"mechanism_id": "IMS8-EQ8.100", "species": [{"species_id": "butan_2_ol_molecular_ion", "mapped_smiles": "[1H:2][O+:1][CH:3]([CH3:4])[CH2:5][CH3:6]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ethyl_radical", "mapped_smiles": "[CH2:5][CH3:6]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "protonated_acetaldehyde", "mapped_smiles": "[1H:2][O+:1]=[CH:3][CH3:4]", "role": "intermediate", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "methane", "mapped_smiles": "[1H:2][CH3:4]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "formyl_cation", "mapped_smiles": "[CH:3]#[O+:1]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["butan_2_ol_molecular_ion"]}, {"state_id": "state_oxocarbenium", "species_ids": ["protonated_acetaldehyde", "ethyl_radical"]}, {"state_id": "state_products", "species_ids": ["formyl_cation", "methane", "ethyl_radical"]}], "steps": [{"step_id": "step_alpha_cleavage", "from_state": "state_precursor", "to_state": "state_oxocarbenium", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [1]}, "target": {"type": "bond", "atom_maps": [1, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 5]}, "target": {"type": "bond", "atom_maps": [1, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 5]}, "target": {"type": "atom", "atom_maps": [5]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_rH_methane_loss", "from_state": "state_oxocarbenium", "to_state": "state_products", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "bond", "atom_maps": [2, 4]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "bond", "atom_maps": [2, 4]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "bond", "atom_maps": [1, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "bond", "atom_maps": [1, 3]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_alpha_8_100", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_cleavage", "support_type": "textbook_proposed", "locator": {"page": 208, "equation": "8.100", "figure": null, "panel": "first arrow, labelled '- R.' over 'alpha'", "section": "8.10 Hydrogen rearrangements"}, "confidence": 0.85, "curator_note": "Equation 8.100, FIRST arrow (leftmost structure -> centre structure), labelled '- R.' above and 'alpha' below. The book draws the precursor as the oxygen-n-ionized molecular ion of a secondary alcohol, R-CH(CH3)-O(+.)H, with '+.' printed just above the oxygen; alpha-cleavage expels R. and gives the oxocarbenium CH3-CH=O(+)-H drawn in the centre. ARC COUNT (convention D): Book draws 2 arc(s), both single-barbed fishhooks, converging on the C-O bond, i.e. on the forming C=O(+) pi bond: arc 1 starts at the odd-electron dot of the '+.' on oxygen, loops up and comes back down with its barb on the C-O bond; arc 2 is the large loop below the chain whose tail sits on the R-CH sigma bond and whose barb points up onto the same C-O bond. Moves <1,2> are those two drawn arcs; move <3> is an implicit homolysis hook required for electron balance (not drawn on the page) - it routes the second electron of the cleaving C-R bond onto R, which is what actually makes the R. radical printed above the arrow. LOCALIZATION (convention B): the precursor SMILES puts the charge and the odd electron explicitly on oxygen ([O+:1] with two bonds = one unpaired electron in RDKit), so arc 1 has a real origin. INSTANTIATION (convention F): the scheme is generic in R; this record uses R = C2H5, i.e. butan-2-ol (C4H10O, M+. m/z 74.0726), so the expelled radical is C2H5. (29.0391) and the oxocarbenium is CH3CH=OH(+) (protonated acetaldehyde, C2H5O+, m/z 45.0335 - the base peak of the 70 eV EI spectrum of butan-2-ol, although page 208 itself prints no abundance). ATOM-MAP NOTE: the hydroxyl hydrogen, which migrates in the second step, is tagged [1H:2] so RDKit keeps it explicit and it can carry an atom map; it is ordinary protium, not a label the book draws."}, {"evidence_id": "ev_step_rH_8_100", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rH_methane_loss", "support_type": "textbook_proposed", "locator": {"page": 208, "equation": "8.100", "figure": null, "panel": "second arrow, labelled 'r H'", "section": "8.10 Hydrogen rearrangements"}, "confidence": 0.8, "curator_note": "Equation 8.100, SECOND arrow (labelled 'r H'): the even-electron (EE+) oxocarbenium CH3-CH=O(+)-H loses methane to give the formyl cation, exactly as the book prints the products to the right of the arrow ('CH4 + HC(triple bond)O(+)'). SET-UP SENTENCE (runs from page 207 onto this page): 'Finally, hydrogen rearrangement can occur in an EE+ ion to a site that has neither a charge nor a multiple bond (Equations 4.45, 8.99, and 8.100; see Site receptivity in this section and extensive examples by Zahorszky 1988, 1989).' Here that receptor site is the METHYL CARBON: it is uncharged and saturated, and the proton moves onto it from the charged oxygen, the opposite of the usual H-to-heteroatom direction. Bond changes: the O-H bond breaks, the CH3-H bond forms, the CH3-C bond breaks and the C=O bond becomes the C(triple bond)O(+) of the formyl cation. ARC COUNT (convention D): Book draws 4 arc(s), all single-barbed fishhooks, in a symmetric diamond. Two tails sit on the left vertical H3C-C bond and two on the right vertical H-O bond; the upper pair's barbs point UP into the gap between H3C and H (the forming CH3-H bond) and the lower pair's barbs point DOWN onto the HC=O bond (the forming third C-O bond). Moves <1,2,3,4> are exactly those four drawn arcs and NOTHING is implicit here: both electrons of each breaking bond are routed by a drawn hook, so the arrows alone balance the step. McLafferty's four-fishhook drawing is bookkeeping-equivalent to the concerted two-double-barbed-arrow version (CH3-C pair -> CH3-H, O-H pair -> C(triple)O); the record transcribes the hooks he actually drew. CONTEXT: the running text on this page ties this channel to 'product stability ... analogous to alkane eliminations from protonated ketones (Harrison 1983)' - the sentence is written for 8.97, but the same acylium/alkane driving force is what makes CH4 loss from a hydroxycarbenium competitive. SPECTATOR: the ethyl radical released in step 1 is carried unchanged through both states so that step 2 balances atom-for-atom; it takes no part in this step."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 74.0726, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_45", "species_id": "protonated_acetaldehyde", "step_id": "step_alpha_cleavage", "observed_mz": 45.0335, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.5}, {"peak_id": "peak_29", "species_id": "formyl_cation", "step_id": "step_rH_methane_loss", "observed_mz": 29.0022, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.5}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-28T00:00:00Z", "modified_at": "2026-07-28T00:00:00Z"}}
